US05286747
cis-5-Methoxy-1-methyl-2-(di-n-propylamino) tetralin hydrochloride
Propionyl chloride (0.49 g, 5.2 mmol) in dry ether (10 ml) was added to a solution of cis-5-methoxy-1-methyl-2-(n-propylamino)tetralin (350 mg, 1.5 mmol) and triethylamine (0.49 g, 4.9 mmol) in dry ether (80 ml). After 30 min. at room temperature the reaction mixture was filtered and the ether was evaporated. The resulting crude amide was passed through an alumina column eluted with ether. The purified amide dissolved in dry THF (20 ml) was added to a suspension of LiAlH4 (1.0 g, 26 mmol) in dry THF (30 ml) under N2. After stirring under reflux for 3 h, the reaction mixture was hydrolyzed, the precipitate was filtered off and the solvent was evaporated. The oily residue was chromatographed on an alumina column with ether-light petroleum (1:1) as eluant. The hydrochloride was prepared and recrystallized from EtOH-ether to give 200 mg (42%) of title product: mp 170.5°-171.5° C.; GC (215° C.) isomeric purity >95%, retention time 2.45 min; NMR (MeOH-d4) δ1.05 (t,6H) δ1.32 (d,3H) δ1.64-3.66 (m,14H), δ3.80 (s,3H), δ6.71-6.82 (m,2H), δ7.10-7.20 (m,1H); MS (70 eV) m/z 275 (28%), 246 (100%), 176 (69%).

reactant | Propionyl chloride | 5.2 mmol, 0.49 g | C(CC)(=O)Cl | C3H5ClO
reactant | cis-5-methoxy-1-methyl-2-(n-propylamino)tetralin | 1.5 mmol, 350 mg | COC1=C2CC[C@@H]([C@@H](C2=CC=C1)C)NCCC | C15H23NO
reactant | triethylamine | 4.9 mmol, 0.49 g | C(C)N(CC)CC | C6H15N
reactant | LiAlH4 | 26 mmol, 1.0 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 80 ml | CCOCC | C4H10O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | cis-5-Methoxy-1-methyl-2-(di-n-propylamino) tetralin hydrochloride | 200 mg, 42% | Cl.COC1=C2CC[C@@H]([C@@H](C2=CC=C1)C)N(CCC)CCC | InChI=1S/C18H29NO.ClH/c1-5-12-19(13-6-2)17-11-10-16-15(14(17)3)8-7-9-18(16)20-4;/h7-9,14,17H,5-6,10-13H2,1-4H3;1H/t14-,17+;/m1./s1
